US04778796
A mixture of 5.0 g of 2-ethylthio-5-nitropyridine, 27 g of ammonium chloride, 54 ml of water, and 108 ml of ethanol is heated to 70°-80° C., and 16.2 g of reduced iron is added slowly with stirring. The mixture is stirred at the same temperature for 45 minutes. The hot reaction mixture is filtered, and the filtrate is concentrated. To the residue is added 50 ml of water, and the mixture is extracted with three 50-ml portions of chloroform. The combined extracts are washed with water, dried over magnesium sulfate and concentrated to give 3.7 g of crude 5-amino-2-ethylthiopyridine.

reactant | 2-ethylthio-5-nitropyridine | 5.0 g | C(C)SC1=NC=C(C=C1)[N+](=O)[O-] | C7H8N2O2S
reactant | ammonium chloride | 27 g | [Cl-].[NH4+]
reactant | water | 54 ml | O | H2O
solvent | ethanol | 108 ml | C(C)O | C2H6O
product | 5-amino-2-ethylthiopyridine | 3.7 g | NC=1C=CC(=NC1)SCC | C7H10N2S
